US05084463
Step 2) Preparation of N-Methyl-6-nitro-N-[(4-nitrophenoxy)propyl]-2-quinoline-methanamine
N-[3-(4-Nitrophenoxy)propyl]methylamine hydrochloride (3.08 g, 12.49 mmol), 2-(chloromethyl)-6-nitroquinoline (2.78 g, 12.49 mmol), and potassium carbonate (3.45 g, 25.0 mmol) were stirred in 2:1 acetonitrile/ethanol (120 mL) at reflux for 18 hours. The mixture was concentrated and the residue was partitioned between 10% aqueous K2CO3 and 4:1 dichloromethane/isopropanol. The organic phase was dried, decolorized and concentrated to afford crude product which was purified by column chromatography (1:2 hexane/ethyl acetate). Yield: 2.63 g (53%) as a yellow oil.

reactant | N-[3-(4-Nitrophenoxy)propyl]methylamine hydrochloride | 12.49 mmol, 3.08 g | Cl.[N+](=O)([O-])C1=CC=C(OCCCNC)C=C1
reactant | 2-(chloromethyl)-6-nitroquinoline | 12.49 mmol, 2.78 g | ClCC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C10H7ClN2O2
reactant | potassium carbonate | 25.0 mmol, 3.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile ethanol | 120 mL | C(C)#N.C(C)O
product | N-Methyl-6-nitro-N-[(4-nitrophenoxy)propyl]-2-quinoline-methanamine | CN(CC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-])CCCOC1=CC=C(C=C1)[N+](=O)[O-] | C20H20N4O5
